US04734416
20.0 Grams of 8-chloro-5-hydroxy-3,4-dihydrocarbostyril and 18 g of potassium carbonate are suspended in 160 ml of isopropyl alcohol, then 40 ml of epichlorohydrin are added and the reaction is carried out at 70°-80° C. for 6 hours. The reaction mixture is concentrated under reduced pressure and the thus-obtained residue is stirred with 100 ml of 2N-sodium hydroxide under cooling conditions. The insoluble matter is separated by filtration, washed with water and dried. The crude crystals are recrystallized from isopropanol to obtain 18.5 g of 8-chloro-5-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril in the form of colorless needle-like crystals with a melting point of 161°-165° C.

reactant | 8-chloro-5-hydroxy-3,4-dihydrocarbostyril | ClC=1C=CC(=C2CCC(NC12)=O)O | C9H8ClNO2
reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
reactant | epichlorohydrin | 40 ml | C(Cl)C1CO1 | C3H5ClO
solvent | isopropyl alcohol | 160 ml | C(C)(C)O | C3H8O
product | 8-chloro-5-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril | 18.5 g | ClC=1C=CC(=C2CCC(NC12)=O)OCC1CO1 | C12H12ClNO3
